US07524860B2
2-(3-Ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethylamide
7-Bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethylamide (0.160 g, 0.450 mmol), pyridine-3-boronic acid (0.0910 g, 0.742 mmol), sodium carbonate (0.215 g, 2.03 mmol), and bis(diphenylphosphino)ferrocene palladium (II) chloride (0.005 g) were suspended in a solution of ethylene glycol dimethyl ether/water/ethanol (7:3:2, 6.00 mL) and subjected to microwave at 80° C. for 30 minutes. The reaction mixture was acidified with acetic acid and purified by column chromatography (gradient 0-5% methanol/dichloromethane) to afford the desired product 2-(3-ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethylamide MS (APCI+): m/z 354.3 (M+H).

reactant | 7-Bromo-2-(3-ethyl-ureido)-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethylamide | 0.450 mmol, 0.160 g | C(C)NC(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)Br | C12H15BrN6O2
reactant | pyridine-3-boronic acid | 0.742 mmol, 0.0910 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 2.03 mmol, 0.215 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether water ethanol | 6.00 mL | COCCOC.O.C(C)O
catalyst | bis(diphenylphosphino)ferrocene palladium (II) chloride | 0.005 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid ethylamide | C(C)NC(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)C=2C=NC=CC2 | C17H19N7O2
